US08604029B2
A solution of 4-piperidine carboxylic acid (1.0 g, 7.75 mmol) in a mixture of 90% formic acid (3 mL) and 37% formaldehyde solution (2 mL) was heated at reflux for 20 h. The volatiles were removed in vacuo and conc. HCl added to the residue. The reaction mixture was extracted with dichloromethane and washed with brine solution. The organic layer was dried over sodium sulfate, filtered and dried to afford 1-methyl-piperidine-4-carboxylic acid (0.20 g, 18%).

reactant | 4-piperidine carboxylic acid | 7.75 mmol, 1.0 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | formic acid | 3 mL | C(=O)O | CH2O2
solvent | formaldehyde | 2 mL | C=O | CH2O
product | 1-methyl-piperidine-4-carboxylic acid | 0.20 g, 18% | CN1CCC(CC1)C(=O)O | C7H13NO2
